US09029536B2
B) 1-[2-(4-Bromophenoxy)-1H-benzimidazol-1-yl]propan-2-one
To a solution of 2-(4-bromophenoxy)-1H-benzo[d]imidazole (5.72 g) in DMF (60 mL) was added NaH (60% in oil, 950 mg) at 0° C. After stirring for 5 min, chloroacetone (2.36 mL) was added to the mixture at 0° C. The mixture was stirred at room temperature for 5 h. The mixture was diluted with AcOEt and washed with water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt in hexane) and recrystallized from THF/Et2O to give the title compound (3.47 g).

reactant | 2-(4-bromophenoxy)-1H-benzo[d]imidazole | 5.72 g | BrC1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1 | C13H9BrN2O
reactant | NaH | 950 mg | [H-].[Na+]
reactant | chloroacetone | 2.36 mL | ClCC(C)=O | C3H5ClO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 1-[2-(4-Bromophenoxy)-1H-benzimidazol-1-yl]propan-2-one | 3.47 g | BrC1=CC=C(OC2=NC3=C(N2CC(C)=O)C=CC=C3)C=C1 | C16H13BrN2O2
